US05750469
Methyl 3-azido-3-phenyl-2-[(4,6-dimethoxypyrimidin-2-yl)thio]butyrate
5.9 g (25 mmol) of methyl 3-azido-3-phenyl-2-hydroxybutyrate (Ex. 1) are dissolved in 50 ml of dichloromethane, 3 g (30 mmol) of triethylamine are added and 3.2 g (28 mmol) of methanesulfonyl chloride are added dropwise with stirring. The mixture is stirred for 23 hours at room temperature, washed three times with 100 ml of water each time, dried over sodium sulfate and concentrated under reduced pressure. The residue is taken up in 100 ml of DMF and added dropwise at 0° C. to a suspension of 12.9 g (75 mmol) of 4,6-dimethoxypyrimidine-2-thiol and 8.4 g (100 mmol) of sodium hydrogencarbonate in 100 ml of DMF. After stirring at room temperature for 2 hours and at 60° C. for a further 2 hours, the mixture is poured onto 1 l of ice water and the resulting precipitate is filtered off with suction.

reactant | methyl 3-azido-3-phenyl-2-hydroxybutyrate | 25 mmol, 5.9 g | N(=[N+]=[N-])C(C(C(=O)OC)O)(C)C1=CC=CC=C1 | C11H13N3O3
reactant | triethylamine | 30 mmol, 3 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 28 mmol, 3.2 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4,6-dimethoxypyrimidine-2-thiol | 75 mmol, 12.9 g | COC1=NC(=NC(=C1)OC)S | C6H8N2O2S
reactant | sodium hydrogencarbonate | 100 mmol, 8.4 g | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Methyl 3-azido-3-phenyl-2-[(4,6-dimethoxypyrimidin-2-yl)thio]butyrate | N(=[N+]=[N-])C(C(C(=O)OC)SC1=NC(=CC(=N1)OC)OC)(C)C1=CC=CC=C1 | C17H19N5O4S
